US08486953B2
d) Preparation of 4-(2-iso-propoxypyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid
Methyl 4-(2-iso-propoxypyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (2.04 g, 5.7 mmol) was suspended in MeOH (24 mL). Into this solution was added a solution of aqueous 2M sodium hydroxide (6.0 mL, 12 mmol) and the reaction stirred at 60° C. for 1 hour. The solution was cooled in an ice-bath and concentrated hydrochloric acid added until the solution reached pH 5. The precipitate was collected, washed with water and dried to yield off-white solid (1.50 g, 76%).

reactant | Methyl 4-(2-iso-propoxypyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 5.7 mmol, 2.04 g | C(C)(C)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC | C17H18N4O3S
reactant | sodium hydroxide | 12 mmol, 2M, 6.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 24 mL | CO | CH4O
product | 4-(2-iso-propoxypyridin-3-ylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylic acid | 1.50 g, 76% | C(C)(C)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C16H16N4O3S
